data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_130772_1,[C@@:1]([C:3]([H:15])([H:16])[H:17])(/[C:6](=[C:5](/[C:4]([H:18])([H:19])[H:20])[O:8][H:9])[H:11])([O:7][C:2]([H:12])([H:13])[H:14])[H:10]>>[C:1](\[C:3]([H:15])([H:16])[H:17])(=[C:6](/[C@@:5]([C:4]([H:18])([H:19])[H:20])([O:7][C:2]([H:12])([H:13])[H:14])[O:8][H:9])[H:11])[H:10],53.87338499998961
MR_108380_1,[C:1]([C:5](=[C:6]([C:2]([H:17])([H:18])[H:19])[C:3]([H:20])([H:21])[H:22])[N:9]=[C:4]([N:7]([H:11])[H:12])[N:8]([H:10])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:5]1=[N:9][C:4]([N:7]([H:11])[H:12])([N:8]([H:10])[H:13])[C:6]1([C:2]([H:17])([H:18])[H:19])[C:3]([H:20])([H:21])[H:22])([H:14])([H:15])[H:16],47.59963999999215
MR_109966_1,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[C:7](=[C:8]([H:23])[H:24])[O:9][N:6]([C:5]([H:20])([H:21])[H:22])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[C:7]([C:8]([N:6]([C:5]([H:20])([H:21])[H:22])[H:10])([H:23])[H:24])=[O:9],49.43696000002603
MR_113906_1,[C:1]([O:7][C:5]([C:6]([C:2]([H:15])([H:16])[H:17])([C:3]([H:14])([H:18])[H:19])/[N:8]=[N:4]/[H:10])=[O:9])([H:11])([H:12])[H:13]>>[C:1]([O:7][C:5]([N:4]([N:8]=[C:6]([C:2]([H:15])([H:16])[H:17])[C:3]([H:14])([H:18])[H:19])[H:10])=[O:9])([H:11])([H:12])[H:13],55.417035000015886
MR_323602_2,[N:1](=[N:2]/[H:7])\[C:3]([O:4][H:6])([N:5]([H:8])[H:9])[H:10]>>[N:1]([N:2]([H:7])[H:8])(/[C:3](=[N:5]/[H:9])[H:10])[O:4][H:6],50.243297499987705
MR_414270_1,[C:1]1([C:3]([H:13])([H:14])[H:15])([O:8][H:10])[C:2]([C:4]([H:16])([H:17])[H:18])([H:12])[C:6](=[O:9])[N:5]([H:11])[O:7]1>>[C:1]([C:2]([C:4]([H:16])([H:17])[H:18])([C:6]1([O:9][H:10])[N:5]([H:11])[O:7]1)[H:12])([C:3]([H:13])([H:14])[H:15])=[O:8],60.00468749999001
MR_208517_0,[C@:1]([N:3]([H:11])[H:12])([C:4]([N:8][O:7][H:10])[H:13])([O:5][C:2]([H:14])([H:15])[H:16])[O:6][H:9]>>[C@:1]1([N:3]([H:11])[H:12])([O:6][H:9])[C@:4]([O:5][C:2]([H:14])([H:15])[H:16])([H:13])[N:8]1[O:7][H:10],51.73737499996079
MR_221453_0,[C:1](=[N:4]/[H:10])(\[C:5](/[C:3]([C:2]([H:13])([H:14])[H:15])=[N:7]\[H:11])([C:6]([H:9])([H:16])[H:17])[H:12])[H:8]>>[C:1](/[C:3]([C:2]([H:13])([H:14])[H:15])=[N:7]\[H:11])([N:4]([H:9])[H:10])([C:5](=[C:6]([H:16])[H:17])[H:12])[H:8],71.94601249998158
MR_314656_0,[N:1](/[C:2](=[N:4]/[C:3](=[N:5]/[H:8])[H:10])[H:9])([H:6])[H:7]>>[N:1]([C:2]1([H:9])[N:4]=[C:3]([H:10])[N:5]1[H:8])([H:6])[H:7],32.59925250000158
MR_151530_0,[C:1](/[N:9]=[C:5](/[C:6]([C:2]([H:15])([H:16])[H:17])=[C:7]([C:3]([H:18])([H:19])[H:20])[C:4]([H:21])([H:22])[H:23])[N:8]([H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:9]1[C:5]([N:8]([H:10])[H:11])=[C:6]([C:2]([H:15])([H:16])[H:17])[C:7]1([C:3]([H:18])([H:19])[H:20])[C:4]([H:21])([H:22])[H:23])([H:12])([H:13])[H:14],43.48198500000848
MR_184231_2,[C:1]([C:4]([C:2]([C:3]([H:16])([H:17])[H:18])([H:11])[H:12])([C:5](=[C:7]([H:19])[H:20])[H:13])[C:6]([H:9])([H:14])[H:15])(=[O:8])[H:10]>>[C:1]([C:4]([C:2]([C:3]([H:16])([H:17])[H:18])([H:11])[H:12])=[C:6]([H:14])[H:15])([C:5](=[C:7]([H:19])[H:20])[H:13])([O:8][H:9])[H:10],73.25372249999717
MR_7816_0,[C:1]([N:4](/[C:5]([C:2]([H:16])([H:17])[H:18])=[C:6](\[C:3]([H:19])([H:20])[H:21])[N:7]([H:10])[H:11])[H:9])([N:8]([H:12])[H:13])([H:14])[H:15]>>[C:1]1([N:8]([H:12])[H:13])([H:14])[N:4]([H:9])[C:5]1([C:2]([H:16])([H:17])[H:18])[C:6]([C:3]([H:19])([H:20])[H:21])([N:7]([H:10])[H:11])[H:15],70.30635499998368
MR_39680_0,[C:1]1([C:3]([H:12])([H:13])[H:14])([H:9])[C:2]([H:10])([H:11])[C:6]([C:4]([H:15])([H:16])[H:17])=[C:5]1[O:7][H:8]>>[C:1](\[C:3]([H:12])([H:13])[H:14])(=[C:5](/[C:6](=[C:2]([H:10])[H:11])[C:4]([H:15])([H:16])[H:17])[O:7][H:8])[H:9],32.412257499992165
MR_493813_0,[C:1]([C@:4]12[C:3]([O:8][H:9])([C@@:5]([C:2]([H:16])([H:17])[H:18])([H:10])[C:6]1([H:14])[H:15])[O:7]2)([H:11])([H:12])[H:13]>>[C:1]([C:4](=[C:6]([H:14])[H:15])[O:7]/[C:3](=[C:5](\[C:2]([H:16])([H:17])[H:18])[H:10])[O:8][H:9])([H:11])([H:12])[H:13],48.935587500043454
MR_159054_1,[C@:1]([C:2]([H:13])([H:14])[H:15])([C:3]([N:5]([H:11])[H:12])=[O:7])([N:4]([H:9])[H:10])[O:6][H:8]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([O:6][H:8])=[O:7])([N:4]([H:9])[H:10])[N:5]([H:11])[H:12],47.13403500002627
MR_457901_0,[C:1]([N:2][N:3][H:4])([H:5])([H:6])[H:7]>>[C:1](=[N:2][N:3]([H:4])[H:7])([H:5])[H:6],60.24376499999278
MR_489730_1,[C:1](/[C:3]([N:2](/[C:5](=[N:7]\[H:10])[H:12])[H:9])=[C:4](\[O:6][H:8])[H:11])([H:13])([H:14])[H:15]>>[C:1](/[C:3](=[N:2]\[H:9])[C@:4](/[C:5](=[N:7]\[H:10])[H:12])([O:6][H:8])[H:11])([H:13])([H:14])[H:15],63.83808499997798
MR_256781_1,[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[O:8]1)([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:7]([C:6]([H:19])([H:20])[H:21])=[O:9]>>[C:1](=[C:2]([O:8][C:3]([C:7]([C:6]([H:19])([H:20])[H:21])=[O:9])([H:11])[H:12])[H:10])([C:4]([H:13])([H:14])[H:15])[C:5]([H:16])([H:17])[H:18],71.78411749999796
